US06548522B1
N-Butyl-2,2-diphenyl-acetamide
The title compound, white solid, m.p. 96° C. and MS: m/e=268.4 (M+H+) was prepared in accordance with the general method of example 1 from diphenylacetyl chloride and butylamine.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | butylamine | C(CCC)N | C4H11N
product | N-Butyl-2,2-diphenyl-acetamide | C(CCC)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C18H21NO
